US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
Using a procedure similar to that of Example 282 (step 2) with 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and 1-methyl-piperazine as starting materials, 25 mg (10%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.00 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.50 (s, 2 H), 2.50 (m, 4 H), 2.30 (s, 4 H), 2.10 (s, 3 H); ES-MS m/z 529.05 [M+H]+, HPLC RT (min) 2.27.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CBr | C27H21BrN6
reactant | 1-methyl-piperazine | CN1CCNCC1 | C5H12N2
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 25 mg, 10% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CN2CCN(CC2)C | C32H32N8
